US05576343
128 g of 5-bromo-2-[2-(4-methoxyphenyl)vinyl]benzofuran as a mixture of two stereoisomers was dissolved in a solvent mixture of 1.3 l of tetrahydrofuran and 0.7 l of ethanol. The resulting solution was mixed with 3.0 g of platinum dioxide and subjected to 4 hours of catalytic hydrogenation under normal pressure. Thereafter, the catalyst was removed by filtration, the resulting filtrate was concentrated, and crystals thus precipitated were collected by filtration and washed with ethanol. In this way, 97.08 g of 5-bromo-2-[2-(4-methoxyphenyl)ethyl]benzofuran was obtained.

reactant | 5-bromo-2-[2-(4-methoxyphenyl)vinyl]benzofuran | 128 g | BrC=1C=CC2=C(C=C(O2)C=CC2=CC=C(C=C2)OC)C1 | C17H13BrO2
solvent | tetrahydrofuran | 1.3 l | O1CCCC1 | C4H8O
solvent | ethanol | 0.7 l | C(C)O | C2H6O
catalyst | platinum dioxide | 3.0 g | [Pt](=O)=O
product | 5-bromo-2-[2-(4-methoxyphenyl)ethyl]benzofuran | 97.08 g | BrC=1C=CC2=C(C=C(O2)CCC2=CC=C(C=C2)OC)C1 | C17H15BrO2
